Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Coumadin / Aggrenox
 
Attending: ___.
 
Chief Complaint:
dyspnea, atrial fibrillation 
 
Major Surgical or Invasive Procedure:
AV junction ablation
Placement of single ventricle pacer

 
History of Present Illness:
Ms. ___ is a ___ F w/hx of afib, tachy-brady syndrome, MR, 
dilated CM (EF 30%), who presented to the ED today with a HR of 
160 in atrial fibrillation and a history of worsening SOB and 
DOE. She states that over the past 2 weeks she has had worsening 
DOE and starting on the day of presentation (___) she had 
SOB while at rest. She has had increasing orthopnea without PND. 
She denies having these symptoms in the past. She denies chest 
pain, palpitations, abdominal pain, N/V, diarrhea. She endorses 
leg swelling L>R for the past 1 week. She was recently admitted 
___ due to dizziness afib with RVR and was evaluated 
for possible MVR and pacemaker implantation. She was deamed not 
a good surgical candidate for her moderate MR by CT surgery. She 
was not a candidate for BiV ICD but was scheduled to undergo EP 
study with afib ablation for ___ by Dr. ___.  
.  
She initially presented to ___ where she 
was in atrial fibrillation with a rate of 160. She was given 
Diltiazem 15mg IV X 1, then started on a Diltiazem gtt at 
5mg/hr. She was given Lasix 60mg IV X 1 and diuresed 3600ml to 
this. She was sent to ___ ED for referral for EP study and 
ablation.  
.  
In the emergency department, initial vitals: 98.7 90 171/93 18 
100. She was given no further medications and admitted.  
.  
On arrival to the floor, she feels anxious from the transport 
process. She reports that her SOB is markedly improved compared 
to arrival to ___. She denies chest pain, pressure 
or palpitations.  
.  
Review of systems:  
(+) Per HPI also + for cough and recent URI.  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied chest pain or tightness, palpitations. Denied 
nausea, vomiting, diarrhea, constipation or abdominal pain. No 
recent change in bowel or bladder habits. No dysuria. Denied 
arthralgias or myalgias.  

 
Past Medical History:
-AF, tachy-brady syndrome
-Diabetes
-dyslipidemia
-hypertension
-mitral regurgitation
-TIA, L arm paresthesias ___
-s/p appendectomy and cholestectomy many
years ago, 
-2 broken ankles- right pinned, 
-umbilical hernia repair
-Bilat cataract
 
Social History:
___
Family History:
mother with enlarged heart, MI and DM 
 
Physical Exam:
VS: BP 143/88 HR 96 RR18 98% RA  
___: obese woman, anxious  
HEENT: No scleral icterus. PERRLA/EOMI. MMM. OP clear. Neck 
Supple, No LAD. JVP = 10cm  
CARDIAC: irregularly irregular. Normal S1, S2. No m/r/g.  
LUNGS: Bilateral crackles to mid-lung fields posteriorly. No 
wheezing or rhonchi.  
ABDOMEN: NABS. Soft, NT, ND. No HSM  
EXTREMITIES: 2+ perpipheral edema of lower extremities 
bilaterally to the thighs. LLE slightly more swollen than RLE. 
No calf tenderness, negative Homens' sign, 2+ dorsalis pedis/ 
posterior tibial pulses.  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout. ___ reflexes, 
equal ___. Gait assessment deferred  

 
Pertinent Results:
Labs on admission:

___ 08:00PM   GLUCOSE-50* UREA N-16 CREAT-1.2* SODIUM-137 
POTASSIUM-3.8 CHLORIDE-98 TOTAL CO2-29 ANION GAP-14
___ 08:00PM   CALCIUM-9.6 PHOSPHATE-3.6 MAGNESIUM-2.0
___ 05:10AM   WBC-9.0 RBC-4.11* HGB-11.9* HCT-35.5* MCV-86 
MCH-28.9 MCHC-33.5 RDW-15.7*

Cardiac Enzymes:

___ 11:25PM   cTropnT-<0.01
___ 11:25PM   CK-MB-5 proBNP-___*
___ 11:25PM   CK(CPK)-110
___ 05:10AM   CK-MB-NotDone cTropnT-<0.01
___ 05:10AM   CK(CPK)-92

ECG ___: atrial fibrillation at 79bpm. LAD. nl intervals. 
No ST changes. TW inversions in V1-V6. Compared to prior ECG 
___, T wave inversions are new.  

Imaging:
CXR (___): IMPRESSION: Interval placement of pacemaker with 
single lead terminating within the right ventricle. No 
pneumothorax. Decreased bilateral pleural effusions. 

CXR (___): IMPRESSIONS: Cardiomegaly with interstitial 
edema and bilateral small pleural effusions. Right medial 
basilar likely atelectasis, although underlying consolidation 
not excluded. Low lung volumes. 

PREVIOUS DATA: 
.  
ECHO ___:  
The left atrium is markedly dilated. The right atrium is 
moderately dilated. There is mild symmetric left ventricular 
hypertrophy with normal cavity size. There is moderate global 
left ventricular hypokinesis (LVEF = 30%). Right ventricular 
chamber size and free wall motion are normal. The ascending 
aorta is mildly dilated. The aortic arch is mildly dilated. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. The mitral valve leaflets are mildly 
thickened. Moderate (2+) mitral regurgitation is seen. There is 
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion.  
IMPRESSION: Moderate global left ventricular systolic 
dysfunction. Moderate mitral regurgitation. Mild pulmonary 
hypertension.  
.  
Cardiac Cath ___ (___):  
Normal coronary arteries.  
Globally hypokinetic left ventricle. EF 24%. 3+ mitral 
regurgitation.  
Elevated right heart filling pressures.  

 
Brief Hospital Course:
Ms. ___ is a ___ F with a hx of atrial fibrillation, 
tachy-brady syndrome, CHF with EF 30%, DM who presented with 
atrial fibrillation and CHF.  
.  
#. Afib RVR: Shortness of breath on admission likey secondary to 
Afib with RVR. She was comfortable after 60mg IV Lasix at the 
OSH. Unclear precipitant to her afib with RVR; however she has a 
history of symptomatic dizziness with afib. Rate initially 
controlled on diltiazem gtt, then successfully transitioned to 
PO metoprolol only prior to her procedure. She ultimately had an 
AVJ ablation and pacer placement. It was only possible to place 
single lead, so she is still in atrial fibrillation and V paced 
at 80. She reported a history of rash with Coumadin and 
Aggatroban, and therefore was not anticoagulated prior to 
admission. However, upon further questioning, patient stated she 
has not had allergic reaction to warfarin, only to brand name, 
coumadin. Prior to procedure she was anticoagulated on heparin. 
She was then started on warfarin (given CHADS2 of 6) without any 
complications. She received 10mg on first night, then 7.5mg. She 
was discharged on 5mg daily. She will have her INR followed by 
her PCP, ___.  She was also instructed to continue her 
keflex for a total 3 day course. She will have a pacer 
interrogation next week.

#. Acute on chronic Systolic congestive heart failure, EF 30%: 
There was likely some component of CHF to Ms. ___ 
presentation, given her physical exam and good response to 
lasix. Her outpatient lasix was increased from 20mg daily to 
40mg daily. In addition, toprol XL was increased from 50mg to 
100mg. She was continued on ACEi. She was continued on statin, 
niacin, ASA. She will f/u with Dr. ___ as outpatient.
.  
#. DM: continued glyburide

 
Medications on Admission:
Lasix 20mg PO qday  
Lisinopril 5mg PO qday  
Toprol XL 50mg PO qday  
Simvastatin 10mg PO qHS  
Glyburide 2.5mg PO QID  
Aspirin 81mg PO qday  
Niacin SR 1,000mg PO qday  
Flaxseed Oil  

 
Discharge Medications:
1. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. Lasix 40 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
3. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
5. Niacin 500 mg Capsule, Sustained Release Sig: Two (2) 
Capsule, Sustained Release PO DAILY (Daily).  
6. Cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours) as needed for ___ implant for 1 days: Please take until 
___.
Disp:*4 Capsule(s)* Refills:*0*
7. Warfarin 2.5 mg Tablet Sig: Two (2) Tablet PO at bedtime.
Disp:*60 Tablet(s)* Refills:*2*
8. Glyburide 2.5 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours.  
9. Outpatient Lab Work
Please have INR and chem 10 checked on ___. It will 
be followed up by Dr. ___. 
10. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
1. Atrial Fibrillation with rapid ventricular response
2. Acute on chronic systolic congestive heart failure

SECONDARY DIAGNOSIS:
1. Diabetes Mellitus Type II
2. s/p transient ischemic attack
3. Dyslipidemia
4. Hypertension

 
Discharge Condition:
Stable vital signs, afebrile, ambulatory

 
Discharge Instructions:
You were admitted to ___ on ___ because of your atrial 
fibrillation (abnormal heart rhythm). We did a procedure to burn 
out the area that conducts the abnormal rhythm, and placed a 
pacer as well. Your symptoms improved markedly by the time of 
discharge. You were started on warfarin to prevent strokes from 
blood clots that could form in your heart. You should take this 
medicine everyday. You will need to have your INR checked on 
___. This is a blood test to check the level of 
blood thinner. You will have this checked at Dr. ___, 
and Dr. ___ is aware.

Your medication changes are as follows:
-START taking warfarin daily. 
-CHANGE from metoprolol XL 50mg a day to metoprolol XL 100mg a 
day.
-INCREASE your lasix from 20mg a day to 40mg a day.
-CONTINUE taking keflex (antibiotic) until ___.

Because you have a diagnosis of congestive heart failure, you 
should do the following:
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs in 3 day.
Adhere to 2 gm sodium diet
Fluid Restriction: 2 liters.

Please return to the ER or call your doctor if you develop chest 
pain, shortness of breath, new rash/sensation that your throat 
is closing up, fever>100.4, bloody/black stools, or any other 
symptoms concerning to you.
 
Followup Instructions:
___